data/pmechdb/original/mc_train_fold0/raw/train.txt
CN(C)C1=CC=[N+:21](C=C1)[C:20](C2=CC=CC=C2)(NC3=C(C=CC=C3)[N+](=O)[O-])[O-:10].C1=CC=[NH+]C=C1.[Cl-]>>CN(C)C1=CC=[N:21]C=C1.C1=CC=C(C=C1)[C:20](=[O:10])NC2=C(C=CC=C2)[N+](=O)[O-].C1=CC=[NH+]C=C1.[Cl-] 10=20;20,21=21
CCC(=O)N[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[N+:20](=O)=[O:21]>>CCC(=O)N[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][OH+:21]CCSCCCl.[OH2:10].[Cl-]>>[H:20][OH2+:10].C(CSCCCl)[OH:21].[Cl-] 10=20;20,21=21
C1C(=O)O[Ca-:10]([NH+]1CC(=O)[O-])[OH2+:11]>>C1C(=O)O[Ca:10][NH+]1CC(=O)[O-].[OH2:11] 10,11=11
C1=CO[CH:10]=[C:11]1Br.[Br:20][Br:21]>>C1=CO[CH:10]([C+:11]1Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CC[C:20]([N+]1=CN(C=C1)C)([O-:10])[O:21]C2=CC=C(C=C2)[N+](=O)[O-]>>CC[C:20](=[O:10])[N+]1=CN(C=C1)C.C1=CC(=CC=C1[N+](=O)[O-])[O-:21] 10=20;20,21=21
C[C:20](=[S+:21]C)SC.[OH2:10]>>C[C:20]([OH2+:10])(SC)[S:21]C 10=20;20,21=21
[H:20][OH+:21]C(CC(=O)O)(O)OCC.[OH2:10]>>CCOC(CC(=O)O)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
[H:20][CH:21]1C(=O)C2C(CCC3=C2C=CC=C3)C4C1(C(CC4)C(C)C)O.CC(C)C1CC[CH:10]=[C:11]1[O-:12]>>[H:20][CH:10]1CCC([C:11]1=[O:12])C(C)C.CC(C)C1CCC2C1([CH-:21]C(=O)C3C2CCC4=C3C=CC=C4)O 10,11=10,20;20,21=21;12=11
[H:20][NH+:21]1CCOCC1.C1CC(=O)CC(C1)(N2CCOCC2)[O-:10].C1=CC=CC=C1>>[H:20][O:10]C1(CCCC(=O)C1)N2CCOCC2.C1COCC[NH:21]1.C1=CC=CC=C1 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C#N)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=C(C=C2)C#N 10=20;20,21=21,22
C[CH:20]=[O:21].C1=CC=[C:10](C=C1)[Mg:11]Br>>C[CH:20]([C:10]1=CC=CC=C1)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][O+:21](CC1C(C(C(C(O1)OC2C(CC(C(C2O)OC3C(C(C(C(O3)CN=[N+]=[N-])O)O)O)N=[N+]=[N-])N=[N+]=[N-])O)N=[N+]=[N-])O)C(C4=CC=CC=C4)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].CO>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.COC(C1=CC=CC=C1)[O:21]CC2C(C(C(C(O2)OC3C(CC(C(C3O)OC4C(C(C(C(O4)CN=[N+]=[N-])O)O)O)N=[N+]=[N-])N=[N+]=[N-])O)N=[N+]=[N-])O.CO 10=20;20,21=21
CN1C2=C(CCCC2)C=C1[CH:20]([N:10](C)C)[Cl:21].OP(=O)(Cl)Cl>>CN1C2=C(CCCC2)C=C1[CH:20]=[N+:10](C)C.[Cl-:21].OP(=O)(Cl)Cl 10=20;20,21=21
CN[C:20]([O-:10])(OC)[O:21]C>>CN[C:20](=[O:10])OC.C[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)C(=O)[CH2:20][Cl:21].C(CO)[NH:10]CCO>>C1=CC=C(C=C1)C(=O)[CH2:20][NH+:10](CCO)CCO.[Cl-:21] 10=20;20,21=21
C[Si-:10](C)(C)(OP(=O)CCCCC1=CC=CC=C1)[Cl:11].C[Si](C)(C)N[Si](C)(C)C.C[Si](C)(C)OC(=O)CCl.[Cl-]>>C[Si:10](C)(C)OP(=O)CCCCC1=CC=CC=C1.[Cl-:11].C[Si](C)(C)N[Si](C)(C)C.C[Si](C)(C)OC(=O)CCl.[Cl-] 10,11=11
C(C=O)[O:10][CH:20](CO)[OH2+:21]>>C([CH:20]=[O+:10]CC=O)O.[OH2:21] 10=20;20,21=21
[H:20][C:21]1(C(=O)CCCC1=O)C.C[O:10][Na].CC(=O)C=C.CO>>[H:20][O+:10](C)[Na].C[C-:21]1C(=O)CCCC1=O.CC(=O)C=C.CO 10=20;20,21=21
CCOC(=O)[CH2:20][Br:21].CC12CCC[C:11](=[S:10])[N:12]1C(CO2)C3=CC=CC=C3>>CCOC(=O)[CH2:20][S:10][C:11]1=[N+:12]2C(COC2(CCC1)C)C3=CC=CC=C3.[Br-:21] 10,11=10,20;20,21=21;12=11
C[C:20](=[O:21])C.C[C:11](=[CH2:10])[O-:12]>>C[C:11](=[O:12])[CH2:10][C:20](C)(C)[O-:21] 10,11=10,20;20,21=21;12=11
CC[OH:10].CC(=O)OC(=O)CC[C:20](=[OH+:21])Cl>>CC[OH+:10][C:20](CCC(=O)OC(=O)C)([OH:21])Cl 10=20;20,21=21
[H:20][OH2+:21].C1=CC=C(C=C1)C[CH:10]=[CH:11][O-:12]>>[H:20][CH:10](CC1=CC=CC=C1)[CH:11]=[O:12].[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=CC(=O)[O-])CC1=CC=CC=C1.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C1=CC=C(C=C1)CC(=CC(=O)[O-])[O-:21] 10=20;20,21=21
C[Si-:10](C)(C)(Cl)[I:11]>>C[Si:10](C)(C)Cl.[I-:11] 10,11=11
[H:20][O+:21](C1C2CC3C(CC2(C4(CC1=O)OCCO4)C)OC(O3)(C)C)[Al-](OC(C)C)(OC(C)C)OC(C)C.CC(C)[OH:10]>>[H:20][OH+:10]C(C)C.CC(C)O[Al-]([O:21]C1C2CC3C(CC2(C4(CC1=O)OCCO4)C)OC(O3)(C)C)(OC(C)C)OC(C)C 10=20;20,21=21
CCCCCC1[CH:10]=[CH:11]CC1C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CCCCCC1C2C[CH2:20][CH:10]1[CH+:11]C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C[O+:21]([Si](C)(C)C)[Br:20].C[Si](C)(C)C[C:11]#[CH:10]>>C[O:21][Si](C)(C)C.C[Si](C)(C)C[C+:11]=[CH:10][Br:20] 10,11=10,20;20,21=21
C[O:10][CH:20](CCC1=CC=CC=C1)[O+:21](C)[Fe-](Cl)(Cl)Cl.C[Si](C)(C)CC=C>>C[O:21][Fe-](Cl)(Cl)Cl.C[O+:10]=[CH:20]CCC1=CC=CC=C1.C[Si](C)(C)CC=C 10=20;20,21=21
[H:20][CH:21]1CCCC[C:22]1=[N+:23]2CCOCC2.[OH-:10].C1COCCN1.C1=CC=CC=C1>>[H:20][OH:10].C1CC[C:22](=[CH:21]C1)[N:23]2CCOCC2.C1COCCN1.C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
C[C:20]([N:21]=[N+]=[N-])([O-:10])O[P+](O)(OC)OC>>C[C:20](=[O:10])O[P+](O)(OC)OC.[N-:21]=[N+]=[N-] 10=20;20,21=21
CC(C)CC[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.CC(C)(C)[OH:10].CCN(CC)CC.CC(=O)[O-]>>CC(C)CC[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:21])[OH+:10]C(C)(C)C.CCN(CC)CC.CC(=O)[O-] 10=20;20,21=21
CCCCC(C(C(=O)[O-])OC1=CC=CC=C1)[OH:10].CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>CCCCC(C(C(=O)[O-])OC1=CC=CC=C1)[OH+:10][P:20](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC 10=20,
[H:20][NH3+:21].CC1=CCC(N1)(CCC2=CC=CC=C2)[O-:10].CO.O>>[H:20][O:10]C1(CC=C(N1)C)CCC2=CC=CC=C2.[NH3:21].CO.O 10=20;20,21=21
CO[C:11]1=[CH:10]C2=C(C=CC=C2)C=C1.[N+:20](=O)=[O:21]>>CO[C+:11]1C=CC2=C([CH:10]1[N+:20](=O)[O-:21])C=CC=C2 10,11=10,20;20,21=21
